US05405854
23.1 g of N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (EDC) are added while stirring to 24 g of N-benzyloxycarbonyl-glycine and 8 ml of cyclopropylamine in 240ml of methylene chloride and the mixture is stirred at room temperature for 4 hours. The mixture is taken up in ether and washed with 1N hydrochloric acid, with bicarbonate solution and with water. After drying and evaporating the ether phase there are obtained 23 g of benzyloxycarbonylamino-acetic acid cyclopropylamide.

reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 23.1 g | Cl.CN(CCCN=C=NCC)C
reactant | N-benzyloxycarbonyl-glycine | 24 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | cyclopropylamine | 8 ml | C1(CC1)N | C3H7N
solvent | methylene chloride | 240ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | benzyloxycarbonylamino-acetic acid cyclopropylamide | 23 g | C1(CC1)NC(CNC(=O)OCC1=CC=CC=C1)=O | C13H16N2O3
